US06207686B1
To a suspension of benzyl (2-benzyloxyphenyl)acetate (100 g) in ethanol (500 ml) was added a solution of sodium hydroxide (36 g) in water (300 ml). After being stirred for 16 hours, the mixture was concentrated under reduced pressure. Water was added to the residue and the mixture was washed with diethyl ether. The aqueous layer was acidified by concentrated-hydrochloric acid solution and extracted with ethyl acetate. The organic layer was washed with brine, dried and evaporated in vacuo. The residual oil was crystallized from diisopropyl ether to afford (2-benzyloxyphenyl)acetic acid (28 g).

reactant | benzyl (2-benzyloxyphenyl)acetate | 100 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC(=O)OCC1=CC=CC=C1 | C22H20O3
reactant | sodium hydroxide | 36 g | [OH-].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
product | (2-benzyloxyphenyl)acetic acid | 28 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC(=O)O | C15H14O3
